US07435837B2
Treatment of (±)-[7-(3-methylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methanamine (1.76 g, 6.38 mmol) with diisopropylethylamine (2.47 g, 19.17 mmol) followed by benzyl chloroformate (1.19 g, 7.02 mmol) generally according to the procedure described for Intermediate 12 provided 1.4 g (58%) of (±)-benzyl[7-(3-methylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methylcarbamate as a clear oil. Rf=0.68 (silica, ethyl acetate:hexanes 1:2); Anal. calcd. for C24H23NO3: C, 77.19; H, 6.20; N, 3.75. Found: C, 76.88H, 6.25; N, 3.51. Chiral HPLC separation of (±)-benzyl[7-(3-methylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methylcarbamate (Chiralpak AD, ethanol:hexane 1:1) provided two fractions. Fraction 1 (Rt=10.439 min, Chiralpak AD, ethanol:hexane 1:1); Fraction 2 (Rt=11.833 min, Chiralpak AD ethanol:hexane 1:1).

reactant | (±)-[7-(3-methylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methanamine | 6.38 mmol, 1.76 g | CC=1C=C(C=CC1)C1=CC=CC=2CC(OC21)CN | C16H17NO
reactant | diisopropylethylamine | 19.17 mmol, 2.47 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | benzyl chloroformate | 7.02 mmol, 1.19 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
product | (±)-benzyl[7-(3-methylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methylcarbamate | 1.4 g, 58% | C(C1=CC=CC=C1)OC(NCC1OC2=C(C1)C=CC=C2C2=CC(=CC=C2)C)=O | C24H23NO3
